US09029399B2
Preparation of Intermediate benzyl 4-(2-methoxypyridin-4-yl)-3-oxo-2,4-diazabicyclo[3.1.0]hexane-2-carboxylate (I-31a)
Using analogous reagents and reaction conditions as described in Example 1 above, benzyl 3-oxo-2,4-diazabicyclo[3.1.0]hexane-2-carboxylate (50 mg, 0.215 mmol) was reacted with 4-bromo-2-methoxypyridine (44.5 mg, 0.237 mmol), xantphos (11 mg, 0.019 mmol), Pd2(dba)3 (6.0 mg, 0.006 mmol), cesium carbonate (105 mg, 0.32 mmol) and 1,4-dioxane (3.0 mL) in seal tube at 100° C. for 2.5 hours. Purification by column chromatography on silica gel (50% ethyl acetate in hexane) afforded (35% ethyl acetate in hexane) afforded 30 mg of the product (41% yield).

reactant | benzyl 3-oxo-2,4-diazabicyclo[3.1.0]hexane-2-carboxylate | 0.215 mmol, 50 mg | O=C1N(C2CC2N1)C(=O)OCC1=CC=CC=C1 | C12H12N2O3
reactant | 4-bromo-2-methoxypyridine | 0.237 mmol, 44.5 mg | BrC1=CC(=NC=C1)OC | C6H6BrNO
reactant | xantphos | 0.019 mmol, 11 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 0.32 mmol, 105 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | Pd2(dba)3 | 0.006 mmol, 6.0 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | 1,4-dioxane | 3.0 mL | O1CCOCC1 | C4H8O2
product | benzyl 4-(2-methoxypyridin-4-yl)-3-oxo-2,4-diazabicyclo[3.1.0]hexane-2-carboxylate | 30 mg, 41% yield | COC1=NC=CC(=C1)N1C(N(C2CC12)C(=O)OCC1=CC=CC=C1)=O | C18H17N3O4
